US08349849B2
(S)-tert-Butyl 1-(2-(1,3-dioxolan-2-yl)-4-methoxyphenylamino)-3-hydroxy-2-methyl-1-oxopropan-2-ylcarbamate
(S)-2-tert-Butoxycarbonylamino-3-hydroxy-2-methyl-propionic acid (247.1 mg, 0.001127 mol) was dissolved in DMF, followed by N,N-diisopropylethylamine (0.892 mL, 0.00512 mol), and then 2-(1,3-dioxolan-2-yl)-4-methoxyaniline (200.0 mg, 0.001024 mol) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (389.5 mg, 0.001024 mol) at 23° C. The reaction mixture was allowed to stir at 23° C. for 10 hours. Ethyl acetate (50 mL) was added, followed by water (10 mL). Organic layer was separated, and the aqueous layer was extracted with additional ethyl acetate (2×10mL). Combined organic layers were washed with water (3×10 mL), brine and dried over Na2SO4. The crude product was purified via chromatography (SiO2, 12 g, 0-50% ethyl acetate/hexanes) to give the desired product (176 mg, 43%). 1H NMR (MeOD) δ: 7.98 (s, 1H), 7.01 (d, J=3.0 Hz, 1H), 6.93 (dd, J=8.9, 2.9 Hz, 1H), 5.76 (s, 1H), 4.13-4.26 (m, 2H), 3.95-4.09 (m, 2H), 3.69-3.85 (m, 7H), 1.37-1.53 (m, 12H). MS (M+1): 397.20.

reactant | (S)-2-tert-Butoxycarbonylamino-3-hydroxy-2-methyl-propionic acid | 0.001127 mol, 247.1 mg | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(CO)C | C9H17NO5
reactant | N,N-diisopropylethylamine | 0.00512 mol, 0.892 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1,3-dioxolan-2-yl)-4-methoxyaniline | 0.001024 mol, 200.0 mg | O1C(OCC1)C1=C(N)C=CC(=C1)OC | C10H13NO3
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.001024 mol, 389.5 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-tert-Butyl 1-(2-(1,3-dioxolan-2-yl)-4-methoxyphenylamino)-3-hydroxy-2-methyl-1-oxopropan-2-ylcarbamate | 176 mg, 43% | O1C(OCC1)C1=C(C=CC(=C1)OC)NC([C@@](CO)(C)NC(OC(C)(C)C)=O)=O | C19H28N2O7
